US08729102B2
F) 2-(6-(Methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)-5-(triisopropylsilyloxy)pyridine
A mixture of 1-(2-bromo-4-(methoxymethoxy)phenyl)-2-(5-(triisopropylsilyloxy)pyridin-2-yl)propan-2-ol (9.6 g), copper iodide(I) (3.5 g), cesium carbonate (5.1 g) in toluene (60 mL, containing ca. 0.6 mL DMF) was heated to reflux overnight. The mixture was filtrated and the solid was washed with ethyl acetate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to afford the title compound (8 g).

reactant | 1-(2-bromo-4-(methoxymethoxy)phenyl)-2-(5-(triisopropylsilyloxy)pyridin-2-yl)propan-2-ol | 9.6 g | BrC1=C(C=CC(=C1)OCOC)CC(C)(O)C1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C25H38BrNO4Si
reactant | cesium carbonate | 5.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(6-(Methoxymethoxy)-2-methyl-2,3-dihydrobenzofuran-2-yl)-5-(triisopropylsilyloxy)pyridine | 8 g | COCOC1=CC2=C(CC(O2)(C)C2=NC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)C=C1 | C25H37NO4Si
